US08629167B2
4-((1R,2R)-2-(tert-Butyldimethylsilyloxy)-1-(5-(3-chloro-4-hydroxyphenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile
To a 25 mL round bottom flask was added polymer supported triphenylphosphine (687 mg, 2.06 mmol, 2.0 equiv., approx. 3 mmol/g) and 10.3 mL of methylene chloride. The reaction was cooled to 0° C. using an ice-water bath and then iodine (523 mg, 2.06 mmol, 2.0 equiv.) was added followed by TEA (0.57 mL, 4.12 mmol, 4.0 equiv.). After stirring for 5 min, 4-(tert-butyldimethylsilyloxy)-N′-((2R,3R)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-3-chloro benzohydrazide (688 mg, 1.03 mmol, 1.0 equiv.) was added. The reaction was allowed to stir at room temperature for 2 h. The mixture was filtered over Celite® in a ground glass fitted funnel and the solids rinsed with methylene chloride several times. The organics were washed with 10% Na2S2O3 (3×10 mL) followed by a wash with brine (1×10 mL). The solution was dried over Na2SO4 and was concentrated in vacuo to yield a brown oil. The product was purified via automated flash chromatography (0→30% EtOAc/hexanes 100% EtOAc, 40 g of silica gel) to provide the desired product as a yellow oil (586 mg, 88% yield). Other data: 1H NMR (400 MHz, acetone-d6, δ in ppm) 7.92 (d, J=2.14 Hz, 1H), 7.80 (dd, J=1.95, 8.4 Hz, 1H), 7.50 (d, J=8.79 Hz, 1H), 7.18 (d, J=8.6 Hz, 1H), 6.93 (d, J=8.79 Hz, 1H), 5.79 (d, J=9.18 Hz, 1H), 5.02 (dd, J=6.65, 9.19 Hz, 1H), 4.65 (m, 1H), 2.34 (s, 3H), 1.41 (d, J=6.05 Hz, 3H), 0.81 (s, 9H), 0.09 (s, 3H), 0.03 (s, 3H); LRMS (ESI−) exact mass calcd for C25H30Cl2N4O3Si [M]+ 533.5, found 534.2.

reactant | triphenylphosphine | 2.06 mmol, 687 mg, 2.0 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 2.06 mmol, 523 mg, 2.0 equiv. | II | I2
reactant | 4-(tert-butyldimethylsilyloxy)-N′-((2R,3R)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-3-chloro benzohydrazide | 1.03 mmol, 688 mg, 1.0 equiv. | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C(=O)NNC([C@@H]([C@@H](C)O[Si](C)(C)C(C)(C)C)NC2=C(C(=C(C=C2)C#N)Cl)C)=O)C=C1)Cl | C31H46Cl2N4O4Si2
solvent | methylene chloride | 10.3 mL | C(Cl)Cl | CH2Cl2
product | 4-((1R,2R)-2-(tert-Butyldimethylsilyloxy)-1-(5-(3-chloro-4-hydroxyphenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile | 586 mg, 88% yield | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](C=1OC(=NN1)C1=CC(=C(C=C1)O)Cl)NC1=C(C(=C(C#N)C=C1)Cl)C)C | C25H30Cl2N4O3Si
